2137-09-27 06:33:00 Physician Resident Progress Note
Chief Complaint: GI BLeed
   24 Hour Events:
   Admitted
   Transfused 4 units PRBC's for 10 pt Hct drop
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-9-27**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36
C (96.8
   HR: 70 (70 - 102) bpm
   BP: 111/69(79) {101/67(76) - 129/78(87)} mmHg
   RR: 10 (9 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                  3,750 mL
                                                                    750 mL
   PO:
                  TF:
   IVF:
   Blood products:
                                                                    750 mL
                                                                    750 mL
   Total out:
                                                                    200 mL
                                                                     15 mL
   Urine:
                                                                    200 mL
   NG:
   Stool:
   15 mL
   Drains:
   Balance:
                                                                  3,550 mL
                                                                    735 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   252 K/uL
   12.5 g/dL
   88 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.6 mEq/L
   11 mg/dL
   113 mEq/L
   141 mEq/L
   35.3 %
   7.6 K/uL
        [image002.jpg]
                             [**2137-9-26**]  11:51 PM
                             [**2137-9-27**]  04:47 AM
   WBC
   7.6
   Hct
   31.4
   35.3
   Plt
   252
   Cr
   0.8
   Glucose
   88
   Other labs: PT / PTT / INR:13.3/22.9/1.1, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   51 yo male with history of diverticulitis s/p sigmoid resection now
   presenting with painless rectal bleeding X4 episodes.
   .
   # GI Bleed:  No further episodes of BRBPR overnight.  Hct from 29_>35
   with 4 units PRBCs.
   - continue serial Hct
   - Pt will need colonoscopy, discuss w/ GI
   - Continue to monitor hemodynamic status
   - NPO for now
   .
   # Right hip pain - s/p THR in [**2136**]. Recent pain thought to be due to
   loosening of prosthesis. Being followed by orthopedics as outpt
   -tylenol PRN
   .
   # Depression - continue bupropion.
   .
   # FEN/GI - NPO for now. electrolyte repletion prn
   .
   # PPx - pneumo boots
   .
   # Code - full
   .
   # contact - wife [**Telephone/Fax (1) 457**] (cell), [**Telephone/Fax (1) 458**] (home)
   # Dispo - pending evaluation and resolution of symptoms
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-9-26**] 09:30 PM
   20 Gauge - [**2137-9-27**] 01:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-09-27 06:33:00 Physician Resident Progress Note
Chief Complaint: GI BLeed
   24 Hour Events:
   Admitted
   Transfused 4 units PRBC's for 10 pt Hct drop with increase in Hct from
   29-> 35
   No further bleeding since transfer to ICU
   Feels well this AM.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-9-27**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36
C (96.8
   HR: 70 (70 - 102) bpm
   BP: 111/69(79) {101/67(76) - 129/78(87)} mmHg
   RR: 10 (9 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                  3,750 mL
                                                                    750 mL
   PO:
                  TF:
   IVF:
   Blood products:
                                                                    750 mL
                                                                    750 mL
   Total out:
                                                                    200 mL
                                                                     15 mL
   Urine:
                                                                    200 mL
   NG:
   Stool:
   15 mL
   Drains:
   Balance:
                                                                  3,550 mL
                                                                    735 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abd: soft NT/ND
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   252 K/uL
   12.5 g/dL
   88 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.6 mEq/L
   11 mg/dL
   113 mEq/L
   141 mEq/L
   35.3 %
   7.6 K/uL
        [image002.jpg]
                             [**2137-9-26**]  11:51 PM
                             [**2137-9-27**]  04:47 AM
   WBC
   7.6
   Hct
   31.4
   35.3
   Plt
   252
   Cr
   0.8
   Glucose
   88
   Other labs: PT / PTT / INR:13.3/22.9/1.1, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   51 yo male with history of diverticulitis s/p sigmoid resection now
   presenting with painless rectal bleeding X4 episodes.
   .
   # GI Bleed:  No further episodes of BRBPR overnight.  Hct from 29_>35
   with 4 units PRBCs.
   - continue serial Hct
   - Discuss with GI timing of colonoscopy
   -Surgery consult
   - Continue to monitor hemodynamic status
   - NPO for now
   .
   # Right hip pain - s/p THR in [**2136**]. Recent pain thought to be due to
   loosening of prosthesis. Being followed by orthopedics as outpt
   -percocet PRN
   .
   # Depression - continue bupropion.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-9-26**] 09:30 PM
   20 Gauge - [**2137-9-27**] 01:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:  wife [**Telephone/Fax (1) 457**] (cell), [**Telephone/Fax (1) 458**]
   (home)
   Code status: Full code
   Disposition: ICU

2137-09-27 09:15:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 y/o M w/hx diverticulitis s/p sigmoid resection [**2134**], p/w BRBPR.
   24 Hour Events:
   - transferred to MICU overnight with continued GI bleed
   - transfused 4 U PRBCs (29->31 with 2 units, up to 35 with additional 2
   units)
   - one small BM overnight here with about a teaspoon of dark blood
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2137-9-27**] 09:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.1
   HR: 80 (70 - 102) bpm
   BP: 110/70(79) {101/67(76) - 129/78(87)} mmHg
   RR: 13 (9 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                  3,750 mL
                                                                    750 mL
   PO:
                  TF:
   IVF:
   Blood products:
                                                                    750 mL
                                                                    750 mL
   Total out:
                                                                    200 mL
                                                                     15 mL
   Urine:
                                                                    200 mL
   NG:
   Stool:
   15 mL
   Drains:
   Balance:
                                                                  3,550 mL
                                                                    735 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abd:  soft, nt/nd, +bs.
   Skin:  Warm
   Neurologic: Awake, alert, NAD.
   Labs / Radiology
   12.5 g/dL
   252 K/uL
   88 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.6 mEq/L
   11 mg/dL
   113 mEq/L
   141 mEq/L
   35.3 %
   7.6 K/uL
         [image002.jpg]
                             [**2137-9-26**]  11:51 PM
                             [**2137-9-27**]  04:47 AM
   WBC
   7.6
   Hct
   31.4
   35.3
   Plt
   252
   Cr
   0.8
   Glucose
   88
   Other labs: PT / PTT / INR:13.3/22.9/1.1, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   51 yo M with h/o diverticulitis post sigmoid resection in [**2134**] presents
   with multiple episodes of BRBPR, probable L GIB with significant
   hematocrit drop.
   1. GI bleed:  Likely diverticular; differential also includes mass or
   polyp.  Hct now stable and only a small amount of bleeding overnight.
   - check serial Hct q6h
   - GI following
   - if bleeds again, get tagged RBC scan/angio
   - Surgery consult
   2. R hip pain:  [**2-23**] hip prosthesis loosening
   - percocet prn
   3. Depression: Cont bupropion.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2137-9-26**] 09:30 PM
   20 Gauge - [**2137-9-27**] 01:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2137-09-27 09:15:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 y/o M w/hx diverticulitis s/p sigmoid resection [**2134**], p/w BRBPR.
   24 Hour Events:
   - transferred to MICU overnight with continued GI bleed
   - transfused 4 U PRBCs (29->31 with 2 units, up to 35 with additional 2
   units)
   - one small BM overnight here with about a teaspoon of dark blood
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications: protonix, bupropion
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2137-9-27**] 09:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.1
   HR: 80 (70 - 102) bpm
   BP: 110/70(79) {101/67(76) - 129/78(87)} mmHg
   RR: 13 (9 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                  3,750 mL
                                                                    750 mL
   PO:
                  TF:
   IVF:
   Blood products:
                                                                    750 mL
                                                                    750 mL
   Total out:
                                                                    200 mL
                                                                     15 mL
   Urine:
                                                                    200 mL
   NG:
   Stool:
   15 mL
   Drains:
   Balance:
                                                                  3,550 mL
                                                                    735 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abd:  soft, nt/nd, +bs.
   Skin:  Warm
   Neurologic: Awake, alert, NAD.
   Labs / Radiology
   12.5 g/dL
   252 K/uL
   88 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.6 mEq/L
   11 mg/dL
   113 mEq/L
   141 mEq/L
   35.3 %
   7.6 K/uL
        [image002.jpg]
                             [**2137-9-26**]  11:51 PM
                             [**2137-9-27**]  04:47 AM
   WBC
   7.6
   Hct
   31.4
   35.3
   Plt
   252
   Cr
   0.8
   Glucose
   88
   Other labs: PT / PTT / INR:13.3/22.9/1.1, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   51 yo M with h/o diverticulitis post sigmoid resection in [**2134**] presents
   with multiple episodes of BRBPR, probable L GIB with significant
   hematocrit drop.
   1. GI bleed:  Likely diverticular; differential also includes mass or
   polyp.  Hct now stable and only a small amount of bleeding overnight.
   - check serial Hct q6h
   - GI following
   - if bleeds again, get tagged RBC scan/angio
   - Surgery consult
   2. R hip pain:  [**2-23**] hip prosthesis loosening
   - percocet prn
   3. Depression: Cont bupropion.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2137-9-26**] 09:30 PM
   20 Gauge - [**2137-9-27**] 01:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2137-09-27 09:15:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 y/o M w/hx diverticulitis s/p sigmoid resection [**2134**], p/w BRBPR.
   24 Hour Events:
   - transferred to MICU overnight with continued GI bleed
   - transfused 4 U PRBCs (29->31 with 2 units, up to 35 with additional 2
   units)
   - one small BM overnight here with about a teaspoon of dark blood
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications: protonix, bupropion
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2137-9-27**] 09:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.1
   HR: 80 (70 - 102) bpm
   BP: 110/70(79) {101/67(76) - 129/78(87)} mmHg
   RR: 13 (9 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                  3,750 mL
                                                                    750 mL
   PO:
                  TF:
   IVF:
   Blood products:
                                                                    750 mL
                                                                    750 mL
   Total out:
                                                                    200 mL
                                                                     15 mL
   Urine:
                                                                    200 mL
   NG:
   Stool:
   15 mL
   Drains:
   Balance:
                                                                  3,550 mL
                                                                    735 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abd:  soft, nt/nd, +bs.
   Skin:  Warm
   Neurologic: Awake, alert, NAD.
   Labs / Radiology
   12.5 g/dL
   252 K/uL
   88 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.6 mEq/L
   11 mg/dL
   113 mEq/L
   141 mEq/L
   35.3 %
   7.6 K/uL
        [image002.jpg]
                             [**2137-9-26**]  11:51 PM
                             [**2137-9-27**]  04:47 AM
   WBC
   7.6
   Hct
   31.4
   35.3
   Plt
   252
   Cr
   0.8
   Glucose
   88
   Other labs: PT / PTT / INR:13.3/22.9/1.1, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   51 yo M with h/o diverticulitis post sigmoid resection in [**2134**] presents
   with multiple episodes of BRBPR, probable L GIB with significant
   hematocrit drop.
   1. GI bleed:  Likely diverticular; differential also includes mass or
   polyp.  Hct now stable and only a small amount of bleeding overnight.
   - check serial Hct q6h
   - GI following
   - if bleeds again, get tagged RBC scan/angio
   - Surgery consult
   2. R hip pain:  [**2-23**] hip prosthesis loosening
   - percocet prn
   3. Depression: Cont bupropion.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2137-9-26**] 09:30 PM
   20 Gauge - [**2137-9-27**] 01:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45

2137-09-28 07:03:00 Physician Resident Progress Note
Chief Complaint: GI bleed
   24 Hour Events:
   - patient was seen by GI who recommended colonoscopy.  He had ongoing
   large volume BRBPR so was sent to get bleeding scan which was
   negative.  Bowel prep stopped after repeat bleed.
   -          Hct has been stable 38.9
 34.7
 34.9
 35.4
 34.6
   - s/p 4 units of PRBCs for LOS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Pantoprazole 40 q 12 hr
   Buproprion 450 daily
   Percocet PRN
   Golytely
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-9-28**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 66 (65 - 95) bpm
   BP: 102/66(79) {102/66(68) - 139/93(100)} mmHg
   RR: 13 (11 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,140 mL
                                                                    889 mL
   PO:
             TF:
   IVF:
                                                                  1,390 mL
                                                                    889 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,490 mL
                                                                  1,500 mL
   Urine:
                                                                  1,175 mL
                                                                  1,500 mL
   NG:
   Stool:
                                                                    315 mL
   Drains:
   Balance:
                                                                    650 mL
                                                                   -611 mL
   Respiratory support
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Gen: well appearing middle aged male, NAT
   HEENT: PERRL, EOMI, O/p Clear
   CV: RRR, no m/r/g
   Abd: soft, NT, ND, bowel sounds present
   Ext: no peripheral edema
   Labs / Radiology
   244 K/uL
   12.1 g/dL
   100 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.1 mEq/L
   9 mg/dL
   109 mEq/L
   143 mEq/L
   34.6 %
   5.7 K/uL
        [image002.jpg]
                             [**2137-9-26**]  11:51 PM
                             [**2137-9-27**]  04:47 AM
                             [**2137-9-27**]  09:34 AM
                             [**2137-9-27**]  03:37 PM
                             [**2137-9-27**]  08:06 PM
                             [**2137-9-28**]  01:09 AM
                             [**2137-9-28**]  05:21 AM
   WBC
   7.6
   5.7
   Hct
   31.4
   35.3
   38.9
   34.7
   34.9
   35.4
   34.6
   Plt
   252
   244
   Cr
   0.8
   0.8
   Glucose
   88
   100
   Other labs: PT / PTT / INR:13.3/22.9/1.1, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   In summary, Mr. [**Known lastname 494**] is a 51 year old male male with history of
   diverticulitis s/p sigmoid resection now presenting with painless
   rectal bleeding likely secondary to diverticular bleed.
   .
   1.  Lower GI bleed.  Had maroon blood per rectum yesterday.  Hct is
   stable, but did not appropriately bump with 4 units of PRBCs.  Tagged
   RBC scan yesterday was negative for localization of bleed.  Initial
   plan was for colonoscopy  today; however, bowel prep was stopped due to
   ongoing GI bleed.
   - q 6 hour Hcts
   - touch base with GI re: plans for scope
   - consider repeat tagged RBC scan if patient rebleeds versus surgical
   intervention if significant bleed
   - appreciate GI, Surgery recs
   - NPO
   - IVFs
   .
   2.  Right hip pain. S/p THR in [**2136**].  Recent pain thought to be due to
   loosening of prosthesis. Being followed by orthopedics as outpt
   -percocet PRN
   .
   3. Depression - continue bupropion.
   ICU Care
   Nutrition:
   Glycemic Control:  FS: 100s
   Lines:
   18 Gauge - [**2137-9-27**] 03:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:   IV PPI [**Hospital1 **]
   VAP:  not needed
   Comments:
   Communication:  Comments: patient
   Code status: Full code
   Disposition: ICU care for now

2137-09-28 07:03:00 Physician Resident Progress Note
Chief Complaint: GI bleed
   24 Hour Events:
   - patient was seen by GI who recommended colonoscopy.  He had ongoing
   large volume BRBPR so was sent to get bleeding scan which was
   negative.  Hct has been stable.  Bowel prep stopped after repeat bleed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-9-28**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 66 (65 - 95) bpm
   BP: 102/66(79) {102/66(68) - 139/93(100)} mmHg
   RR: 13 (11 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,140 mL
                                                                    889 mL
   PO:
             TF:
   IVF:
                                                                  1,390 mL
                                                                    889 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,490 mL
                                                                  1,500 mL
   Urine:
                                                                  1,175 mL
                                                                  1,500 mL
   NG:
   Stool:
                                                                    315 mL
   Drains:
   Balance:
                                                                    650 mL
                                                                   -611 mL
   Respiratory support
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   244 K/uL
   12.1 g/dL
   100 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.1 mEq/L
   9 mg/dL
   109 mEq/L
   143 mEq/L
   34.6 %
   5.7 K/uL
        [image002.jpg]
                             [**2137-9-26**]  11:51 PM
                             [**2137-9-27**]  04:47 AM
                             [**2137-9-27**]  09:34 AM
                             [**2137-9-27**]  03:37 PM
                             [**2137-9-27**]  08:06 PM
                             [**2137-9-28**]  01:09 AM
                             [**2137-9-28**]  05:21 AM
   WBC
   7.6
   5.7
   Hct
   31.4
   35.3
   38.9
   34.7
   34.9
   35.4
   34.6
   Plt
   252
   244
   Cr
   0.8
   0.8
   Glucose
   88
   100
   Other labs: PT / PTT / INR:13.3/22.9/1.1, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-9-27**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-09-28 07:03:00 Physician Resident Progress Note
Chief Complaint: GI bleed
   24 Hour Events:
   - patient was seen by GI who recommended colonoscopy.  He had ongoing
   large volume BRBPR so was sent to get bleeding scan which was
   negative.  Bowel prep stopped after repeat bleed.
   -          Hct has been stable 38.9
 34.7
 34.9
 35.4
 34.6
   - s/p 4 units of PRBCs for LOS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Pantoprazole 40 q 12 hr
   Buproprion 450 daily
   Percocet PRN
   Golytely
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-9-28**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 66 (65 - 95) bpm
   BP: 102/66(79) {102/66(68) - 139/93(100)} mmHg
   RR: 13 (11 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,140 mL
                                                                    889 mL
   PO:
             TF:
   IVF:
                                                                  1,390 mL
                                                                    889 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,490 mL
                                                                  1,500 mL
   Urine:
                                                                  1,175 mL
                                                                  1,500 mL
   NG:
   Stool:
                                                                    315 mL
   Drains:
   Balance:
                                                                    650 mL
                                                                   -611 mL
   Respiratory support
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Gen: well appearing middle aged male, NAT
   HEENT: PERRL, EOMI, O/p Clear
   CV: RRR, no m/r/g
   Abd: soft, NT, ND, bowel sounds present
   Ext: no peripheral edema
   Labs / Radiology
   244 K/uL
   12.1 g/dL
   100 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.1 mEq/L
   9 mg/dL
   109 mEq/L
   143 mEq/L
   34.6 %
   5.7 K/uL
        [image002.jpg]
                             [**2137-9-26**]  11:51 PM
                             [**2137-9-27**]  04:47 AM
                             [**2137-9-27**]  09:34 AM
                             [**2137-9-27**]  03:37 PM
                             [**2137-9-27**]  08:06 PM
                             [**2137-9-28**]  01:09 AM
                             [**2137-9-28**]  05:21 AM
   WBC
   7.6
   5.7
   Hct
   31.4
   35.3
   38.9
   34.7
   34.9
   35.4
   34.6
   Plt
   252
   244
   Cr
   0.8
   0.8
   Glucose
   88
   100
   Other labs: PT / PTT / INR:13.3/22.9/1.1, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   In summary, Mr. [**Known lastname 494**] is a 51 year old male male with history of
   diverticulitis s/p sigmoid resection now presenting with painless
   rectal bleeding likely secondary to diverticular bleed.
   .
   1.  Lower GI bleed.  Had maroon blood per rectum yesterday.  Hct is
   stable, but did not appropriately bump with 4 units of PRBCs.  Tagged
   RBC scan yesterday was negative for localization of bleed.  Initial
   plan was for colonoscopy  today; however, bowel prep was stopped due to
   ongoing GI bleed.  Now will be monitored in ICU for now with plan for
   colonoscopy on Monday.
   - q 8 hour hcts
   - colonoscopy on Monday
   - consider repeat tagged RBC scan if patient rebleeds versus surgical
   intervention if significant bleed
   - appreciate GI, Surgery recs
   - NPO
   - IVFs
   .
   2.  Right hip pain. S/p THR in [**2136**].  Recent pain thought to be due to
   loosening of prosthesis. Being followed by orthopedics as outpt
   -percocet PRN
   .
   3. Depression - continue bupropion.
   ICU Care
   Nutrition:
   Glycemic Control:  FS: 100s
   Lines:
   18 Gauge - [**2137-9-27**] 03:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:   IV PPI [**Hospital1 **]
   VAP:  not needed
   Comments:
   Communication:  Comments: patient
   Code status: Full code
   Disposition: ICU care for now

2137-09-28 10:32:00 Physician Attending Progress Note
Chief Complaint: BRBPR
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo M with h/o diverticulitis post sigmoid resection in [**2134**] presents
   with multiple episodes of BRBPR, probable L GIB.
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2137-9-28**] 01:12 AM
   Overnight had additional BRBPR, went to tagged RBC scan which was
   negative.  Not transfused overnight.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-9-28**] 09:43 AM
   Other medications:
   wellbutrin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-9-28**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 77 (65 - 95) bpm
   BP: 112/72(80) {102/66(68) - 139/93(100)} mmHg
   RR: 12 (11 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,140 mL
                                                                  1,318 mL
   PO:
             TF:
   IVF:
                                                                  1,390 mL
                                                                  1,318 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,490 mL
                                                                  3,000 mL
   Urine:
                                                                  1,175 mL
                                                                  3,000 mL
   NG:
   Stool:
                                                                    315 mL
   Drains:
   Balance:
                                                                    650 mL
                                                                 -1,682 mL
   Respiratory support
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.1 g/dL
   244 K/uL
   100 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.1 mEq/L
   9 mg/dL
   109 mEq/L
   143 mEq/L
   34.6 %
   5.7 K/uL
        [image002.jpg]
                             [**2137-9-26**]  11:51 PM
                             [**2137-9-27**]  04:47 AM
                             [**2137-9-27**]  09:34 AM
                             [**2137-9-27**]  03:37 PM
                             [**2137-9-27**]  08:06 PM
                             [**2137-9-28**]  01:09 AM
                             [**2137-9-28**]  05:21 AM
   WBC
   7.6
   5.7
   Hct
   31.4
   35.3
   38.9
   34.7
   34.9
   35.4
   34.6
   Plt
   252
   244
   Cr
   0.8
   0.8
   Glucose
   88
   100
   Other labs: PT / PTT / INR:13.3/22.9/1.1, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:3.4 mg/dL
   Imaging: Tagged RBC scan overnight negative.
   Assessment and Plan
   51 yo M with h/o diverticulitis post sigmoid resection in [**2134**] presents
   with multiple episodes of BRBPR, probable L GIB with significant
   hematocrit drop.
   1. GI bleed:  Likely diverticular; differential also includes mass or
   polyp.  Hct now stable despite bleeding overnight.
   - check serial Hct q8h
   - GI and surgery following; appreciate input
   - plan for colonoscopy on Monday
   2. R hip pain:  [**2-23**] hip prosthesis loosening
   - percocet prn
   3. Depression: Cont bupropion.
   ICU Care
   Nutrition:
   Comments: Clear liquids.
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2137-9-27**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2137-09-28 10:32:00 Physician Attending Progress Note
Chief Complaint: BRBPR
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo M with h/o diverticulitis post sigmoid resection in [**2134**] presents
   with multiple episodes of BRBPR, probable L GIB.
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2137-9-28**] 01:12 AM
   Overnight had additional BRBPR, went to tagged RBC scan which was
   negative.  Not transfused overnight.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-9-28**] 09:43 AM
   Other medications:
   wellbutrin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-9-28**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 77 (65 - 95) bpm
   BP: 112/72(80) {102/66(68) - 139/93(100)} mmHg
   RR: 12 (11 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,140 mL
                                                                  1,318 mL
   PO:
             TF:
   IVF:
                                                                  1,390 mL
                                                                  1,318 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,490 mL
                                                                  3,000 mL
   Urine:
                                                                  1,175 mL
                                                                  3,000 mL
   NG:
   Stool:
                                                                    315 mL
   Drains:
   Balance:
                                                                    650 mL
                                                                 -1,682 mL
   Respiratory support
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.1 g/dL
   244 K/uL
   100 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.1 mEq/L
   9 mg/dL
   109 mEq/L
   143 mEq/L
   34.6 %
   5.7 K/uL
        [image002.jpg]
                             [**2137-9-26**]  11:51 PM
                             [**2137-9-27**]  04:47 AM
                             [**2137-9-27**]  09:34 AM
                             [**2137-9-27**]  03:37 PM
                             [**2137-9-27**]  08:06 PM
                             [**2137-9-28**]  01:09 AM
                             [**2137-9-28**]  05:21 AM
   WBC
   7.6
   5.7
   Hct
   31.4
   35.3
   38.9
   34.7
   34.9
   35.4
   34.6
   Plt
   252
   244
   Cr
   0.8
   0.8
   Glucose
   88
   100
   Other labs: PT / PTT / INR:13.3/22.9/1.1, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:3.4 mg/dL
   Imaging: Tagged RBC scan overnight negative.
   Assessment and Plan
   51 yo M with h/o diverticulitis post sigmoid resection in [**2134**] presents
   with multiple episodes of BRBPR, probable L GIB with significant
   hematocrit drop.
   1. GI bleed:  Likely diverticular; differential also includes mass or
   polyp.  Hct now stable despite bleeding overnight.
   - check serial Hct q8h
   - GI and surgery following; appreciate input
   -          plan for colonoscopy on Monday
   -          If any signs of hemodynamic instability, may need earlier
   intervention
   2. R hip pain:  [**2-23**] hip prosthesis loosening
   - percocet prn
   3. Depression: Cont bupropion.
   ICU Care
   Nutrition:
   Comments: Clear liquids.
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2137-9-27**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2137-09-29 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Overnight patient had no more BRBPR but had some dark red stools. Hct
   remained stable
   - Plan per GI is to do colonoscopy on Monday. Plan to give 2 bottles
   mag citrate prep today in preparation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-9-29**] 12:00 AM
   Other medications:
   Pantoprazole 40 q 12 hr
   Buproprion 450 daily
   Percocet PRN
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-9-29**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 78 (72 - 89) bpm
   BP: 126/83(92) {101/58(57) - 130/87(101)} mmHg
   RR: 11 (10 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,890 mL
                                                                    110 mL
   PO:
                                                                    270 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,620 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  4,950 mL
                                                                  1,650 mL
   Urine:
                                                                  4,950 mL
                                                                  1,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,060 mL
                                                                 -1,540 mL
   Respiratory support
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   GEN: NAD
   HEENT: MMM
   CV: RRR, no m/r/g
   Lung: CTAB
   Abd: soft/nt/nd
   Peripheral Vascular: DP 2+ b/l
   Labs / Radiology
   305 K/uL
   12.7 g/dL
   91 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.0 mEq/L
   6 mg/dL
   110 mEq/L
   142 mEq/L
   35.8 %
   7.8 K/uL
        [image002.jpg]
                             [**2137-9-26**]  11:51 PM
                             [**2137-9-27**]  04:47 AM
                             [**2137-9-27**]  09:34 AM
                             [**2137-9-27**]  02:13 PM
                             [**2137-9-27**]  03:37 PM
                             [**2137-9-27**]  08:06 PM
                             [**2137-9-28**]  01:09 AM
                             [**2137-9-28**]  05:21 AM
                             [**2137-9-29**]  02:58 AM
   WBC
   7.6
   5.7
   7.8
   Hct
   31.4
   35.3
   38.9
   33.7
   34.7
   34.9
   35.4
   34.6
   35.8
   Plt
   [**Telephone/Fax (3) 516**]
   Cr
   0.8
   0.8
   1.0
   Glucose
   88
   100
   91
   Other labs: PT / PTT / INR:12.9/23.7/1.1, Ca++:8.9 mg/dL, Mg++:2.2
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   In summary, Mr. [**Known lastname 494**] is a 51 year old male male with history of
   diverticulitis s/p sigmoid resection now presenting with painless
   rectal bleeding likely secondary to diverticular bleed.
   .
   1.  Lower GI bleed.  Continues with maroon stools, but Hct stable.
   Tagged RBC scan yesterday was negative for localization of bleed.
   Initial plan was for colonoscopy  today; however, bowel prep was
   stopped due to ongoing GI bleed.  Now will be monitored in ICU for now
   with plan for colonoscopy on Monday.
   - q 8 hour hcts
   - colonoscopy on Monday
   - consider repeat tagged RBC scan if patient rebleeds versus surgical
   intervention if significant bleed
   - appreciate GI, Surgery recs
   - IVFs
   .
   2.  Right hip pain. S/p THR in [**2136**].  Recent pain thought to be due to
   loosening of prosthesis. Being followed by orthopedics as outpt
   -percocet PRN
   .
   3. Depression - continue bupropion.
   ICU Care
   Nutrition: clears
   Glycemic Control:  FS 100s
   Lines:
   20 Gauge - [**2137-9-28**] 07:00 AM
   22 Gauge - [**2137-9-28**] 12:05 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: IV PPI [**Hospital1 **]
   VAP:  not needed
   Comments:
   Communication:  Comments: patient
   Code status: Full code
   Disposition:  call out

2137-09-29 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Overnight patient had no more BRBPR but had some dark red stools. Hct
   remained stable
   - Plan per GI is to do colonoscopy on Monday. Plan to give 2 bottles
   mag citrate prep today in preparation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-9-29**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-9-29**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 78 (72 - 89) bpm
   BP: 126/83(92) {101/58(57) - 130/87(101)} mmHg
   RR: 11 (10 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,890 mL
                                                                    110 mL
   PO:
                                                                    270 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,620 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  4,950 mL
                                                                  1,650 mL
   Urine:
                                                                  4,950 mL
                                                                  1,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,060 mL
                                                                 -1,540 mL
   Respiratory support
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   305 K/uL
   12.7 g/dL
   91 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.0 mEq/L
   6 mg/dL
   110 mEq/L
   142 mEq/L
   35.8 %
   7.8 K/uL
        [image002.jpg]
                             [**2137-9-26**]  11:51 PM
                             [**2137-9-27**]  04:47 AM
                             [**2137-9-27**]  09:34 AM
                             [**2137-9-27**]  02:13 PM
                             [**2137-9-27**]  03:37 PM
                             [**2137-9-27**]  08:06 PM
                             [**2137-9-28**]  01:09 AM
                             [**2137-9-28**]  05:21 AM
                             [**2137-9-29**]  02:58 AM
   WBC
   7.6
   5.7
   7.8
   Hct
   31.4
   35.3
   38.9
   33.7
   34.7
   34.9
   35.4
   34.6
   35.8
   Plt
   [**Telephone/Fax (3) 516**]
   Cr
   0.8
   0.8
   1.0
   Glucose
   88
   100
   91
   Other labs: PT / PTT / INR:12.9/23.7/1.1, Ca++:8.9 mg/dL, Mg++:2.2
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-9-28**] 07:00 AM
   22 Gauge - [**2137-9-28**] 12:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-09-29 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Overnight patient had no more BRBPR but had some dark red stools. Hct
   remained stable
   - Plan per GI is to do colonoscopy on Monday. Plan to give 2 bottles
   mag citrate prep today in preparation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-9-29**] 12:00 AM
   Other medications:
   Pantoprazole 40 q 12 hr
   Buproprion 450 daily
   Percocet PRN
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-9-29**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 78 (72 - 89) bpm
   BP: 126/83(92) {101/58(57) - 130/87(101)} mmHg
   RR: 11 (10 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,890 mL
                                                                    110 mL
   PO:
                                                                    270 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,620 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  4,950 mL
                                                                  1,650 mL
   Urine:
                                                                  4,950 mL
                                                                  1,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,060 mL
                                                                 -1,540 mL
   Respiratory support
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   305 K/uL
   12.7 g/dL
   91 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.0 mEq/L
   6 mg/dL
   110 mEq/L
   142 mEq/L
   35.8 %
   7.8 K/uL
        [image002.jpg]
                             [**2137-9-26**]  11:51 PM
                             [**2137-9-27**]  04:47 AM
                             [**2137-9-27**]  09:34 AM
                             [**2137-9-27**]  02:13 PM
                             [**2137-9-27**]  03:37 PM
                             [**2137-9-27**]  08:06 PM
                             [**2137-9-28**]  01:09 AM
                             [**2137-9-28**]  05:21 AM
                             [**2137-9-29**]  02:58 AM
   WBC
   7.6
   5.7
   7.8
   Hct
   31.4
   35.3
   38.9
   33.7
   34.7
   34.9
   35.4
   34.6
   35.8
   Plt
   [**Telephone/Fax (3) 516**]
   Cr
   0.8
   0.8
   1.0
   Glucose
   88
   100
   91
   Other labs: PT / PTT / INR:12.9/23.7/1.1, Ca++:8.9 mg/dL, Mg++:2.2
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   In summary, Mr. [**Known lastname 494**] is a 51 year old male male with history of
   diverticulitis s/p sigmoid resection now presenting with painless
   rectal bleeding likely secondary to diverticular bleed.
   .
   1.  Lower GI bleed.  Had maroon blood per rectum yesterday.  Hct is
   stable, but did not appropriately bump with 4 units of PRBCs.  Tagged
   RBC scan yesterday was negative for localization of bleed.  Initial
   plan was for colonoscopy  today; however, bowel prep was stopped due to
   ongoing GI bleed.  Now will be monitored in ICU for now with plan for
   colonoscopy on Monday.
   - q 8 hour hcts
   - colonoscopy on Monday
   - consider repeat tagged RBC scan if patient rebleeds versus surgical
   intervention if significant bleed
   - appreciate GI, Surgery recs
   - NPO
   - IVFs
   .
   2.  Right hip pain. S/p THR in [**2136**].  Recent pain thought to be due to
   loosening of prosthesis. Being followed by orthopedics as outpt
   -percocet PRN
   .
   3. Depression - continue bupropion.
   ICU Care
   Nutrition:
   Glycemic Control:  FS 100s
   Lines:
   20 Gauge - [**2137-9-28**] 07:00 AM
   22 Gauge - [**2137-9-28**] 12:05 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: IV PPI [**Hospital1 **]
   VAP:  not needed
   Comments:
   Communication:  Comments: patient
   Code status: Full code
   Disposition: ICU for now. If Hct remains stable with no BRBPR, can
   consider transfer to floor today

2137-09-29 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Overnight patient had no more BRBPR but had some dark red stools. Hct
   remained stable
   - Plan per GI is to do colonoscopy on Monday. Plan to give 2 bottles
   mag citrate prep today in preparation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-9-29**] 12:00 AM
   Other medications:
   Pantoprazole 40 q 12 hr
   Buproprion 450 daily
   Percocet PRN
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-9-29**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 78 (72 - 89) bpm
   BP: 126/83(92) {101/58(57) - 130/87(101)} mmHg
   RR: 11 (10 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,890 mL
                                                                    110 mL
   PO:
                                                                    270 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,620 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  4,950 mL
                                                                  1,650 mL
   Urine:
                                                                  4,950 mL
                                                                  1,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,060 mL
                                                                 -1,540 mL
   Respiratory support
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   GEN: NAD
   HEENT: MMM
   CV: RRR, no m/r/g
   Lung: CTAB
   Abd: soft/nt/nd
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   305 K/uL
   12.7 g/dL
   91 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.0 mEq/L
   6 mg/dL
   110 mEq/L
   142 mEq/L
   35.8 %
   7.8 K/uL
        [image002.jpg]
                             [**2137-9-26**]  11:51 PM
                             [**2137-9-27**]  04:47 AM
                             [**2137-9-27**]  09:34 AM
                             [**2137-9-27**]  02:13 PM
                             [**2137-9-27**]  03:37 PM
                             [**2137-9-27**]  08:06 PM
                             [**2137-9-28**]  01:09 AM
                             [**2137-9-28**]  05:21 AM
                             [**2137-9-29**]  02:58 AM
   WBC
   7.6
   5.7
   7.8
   Hct
   31.4
   35.3
   38.9
   33.7
   34.7
   34.9
   35.4
   34.6
   35.8
   Plt
   [**Telephone/Fax (3) 516**]
   Cr
   0.8
   0.8
   1.0
   Glucose
   88
   100
   91
   Other labs: PT / PTT / INR:12.9/23.7/1.1, Ca++:8.9 mg/dL, Mg++:2.2
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   In summary, Mr. [**Known lastname 494**] is a 51 year old male male with history of
   diverticulitis s/p sigmoid resection now presenting with painless
   rectal bleeding likely secondary to diverticular bleed.
   .
   1.  Lower GI bleed.  Continues with maroon stools, but Hct stable.
   Tagged RBC scan yesterday was negative for localization of bleed.
   Initial plan was for colonoscopy  today; however, bowel prep was
   stopped due to ongoing GI bleed.  Now will be monitored in ICU for now
   with plan for colonoscopy on Monday.
   - q 8 hour hcts
   - colonoscopy on Monday
   - consider repeat tagged RBC scan if patient rebleeds versus surgical
   intervention if significant bleed
   - appreciate GI, Surgery recs
   - NPO
   - IVFs
   .
   2.  Right hip pain. S/p THR in [**2136**].  Recent pain thought to be due to
   loosening of prosthesis. Being followed by orthopedics as outpt
   -percocet PRN
   .
   3. Depression - continue bupropion.
   ICU Care
   Nutrition:
   Glycemic Control:  FS 100s
   Lines:
   20 Gauge - [**2137-9-28**] 07:00 AM
   22 Gauge - [**2137-9-28**] 12:05 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: IV PPI [**Hospital1 **]
   VAP:  not needed
   Comments:
   Communication:  Comments: patient
   Code status: Full code
   Disposition: ICU for now. If Hct remains stable with no BRBPR, can
   consider transfer to floor today

2137-09-29 10:33:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo M with h/o diverticulitis post sigmoid resection in [**2134**] presents
   with multiple episodes of BRBPR, probable L GIB with significant
   hematocrit drop.
   24 Hour Events:
   One episode of maroon stool overnight, but no further bright red
   blood.  Hct stable at 35.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-9-29**] 12:00 AM
   Other medications:
   wellbutrin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-9-29**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 76 (67 - 89) bpm
   BP: 121/84(92) {101/58(57) - 130/87(97)} mmHg
   RR: 22 (10 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,890 mL
                                                                    260 mL
   PO:
                                                                    270 mL
                                                                    250 mL
   TF:
   IVF:
                                                                  1,620 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  4,950 mL
                                                                  2,450 mL
   Urine:
                                                                  4,950 mL
                                                                  2,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,060 mL
                                                                 -2,190 mL
   Respiratory support
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.7 g/dL
   305 K/uL
   91 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.0 mEq/L
   6 mg/dL
   110 mEq/L
   142 mEq/L
   35.8 %
   7.8 K/uL
        [image002.jpg]
                             [**2137-9-26**]  11:51 PM
                             [**2137-9-27**]  04:47 AM
                             [**2137-9-27**]  09:34 AM
                             [**2137-9-27**]  02:13 PM
                             [**2137-9-27**]  03:37 PM
                             [**2137-9-27**]  08:06 PM
                             [**2137-9-28**]  01:09 AM
                             [**2137-9-28**]  05:21 AM
                             [**2137-9-29**]  02:58 AM
   WBC
   7.6
   5.7
   7.8
   Hct
   31.4
   35.3
   38.9
   33.7
   34.7
   34.9
   35.4
   34.6
   35.8
   Plt
   [**Telephone/Fax (3) 516**]
   Cr
   0.8
   0.8
   1.0
   Glucose
   88
   100
   91
   Other labs: PT / PTT / INR:12.9/23.7/1.1, Ca++:8.9 mg/dL, Mg++:2.2
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   51 yo M with h/o diverticulitis post sigmoid resection in [**2134**] presents
   with multiple episodes of BRBPR, probable L GIB with significant
   hematocrit drop.
   1. GI bleed:  Likely diverticular; differential also includes mass or
   polyp.  Hct now stable despite bleeding overnight.
   - Hct [**Hospital1 **] unless further bleeding
   - GI and surgery following; appreciate input
   -  plan for colonoscopy tomorrow; prep tonight
   - maintenance fluid
   2. R hip pain:  [**2-23**] hip prosthesis loosening
   - percocet prn
   3. Depression: Cont bupropion.
   ICU Care
   Nutrition:
   Comments: clear liquids
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2137-9-28**] 07:00 AM
   22 Gauge - [**2137-9-28**] 12:05 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:

2137-09-29 10:33:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo M with h/o diverticulitis post sigmoid resection in [**2134**] presents
   with multiple episodes of BRBPR, probable L GIB with significant
   hematocrit drop.
   24 Hour Events:
   One episode of maroon stool overnight, but no further bright red
   blood.  Hct stable at 35.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-9-29**] 12:00 AM
   Other medications:
   wellbutrin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-9-29**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 76 (67 - 89) bpm
   BP: 121/84(92) {101/58(57) - 130/87(97)} mmHg
   RR: 22 (10 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,890 mL
                                                                    260 mL
   PO:
                                                                    270 mL
                                                                    250 mL
   TF:
   IVF:
                                                                  1,620 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  4,950 mL
                                                                  2,450 mL
   Urine:
                                                                  4,950 mL
                                                                  2,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,060 mL
                                                                 -2,190 mL
   Respiratory support
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.7 g/dL
   305 K/uL
   91 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.0 mEq/L
   6 mg/dL
   110 mEq/L
   142 mEq/L
   35.8 %
   7.8 K/uL
        [image002.jpg]
                             [**2137-9-26**]  11:51 PM
                             [**2137-9-27**]  04:47 AM
                             [**2137-9-27**]  09:34 AM
                             [**2137-9-27**]  02:13 PM
                             [**2137-9-27**]  03:37 PM
                             [**2137-9-27**]  08:06 PM
                             [**2137-9-28**]  01:09 AM
                             [**2137-9-28**]  05:21 AM
                             [**2137-9-29**]  02:58 AM
   WBC
   7.6
   5.7
   7.8
   Hct
   31.4
   35.3
   38.9
   33.7
   34.7
   34.9
   35.4
   34.6
   35.8
   Plt
   [**Telephone/Fax (3) 516**]
   Cr
   0.8
   0.8
   1.0
   Glucose
   88
   100
   91
   Other labs: PT / PTT / INR:12.9/23.7/1.1, Ca++:8.9 mg/dL, Mg++:2.2
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   51 yo M with h/o diverticulitis post sigmoid resection in [**2134**] presents
   with multiple episodes of BRBPR, probable L GIB with significant
   hematocrit drop.
   1. GI bleed:  Likely diverticular; differential also includes mass or
   polyp.  Hct now stable despite small amt bleeding overnight.
   - Hct [**Hospital1 **] unless further bleeding
   - GI and surgery following; appreciate input
   -  plan for colonoscopy tomorrow; prep tonight
   - maintenance fluid
   2. R hip pain:  [**2-23**] hip prosthesis loosening
   - percocet prn
   3. Depression: Cont bupropion.
   ICU Care
   Nutrition: clear liquids
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2137-9-28**] 07:00 AM
   22 Gauge - [**2137-9-28**] 12:05 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:po diet
   Communication:  pt updated
   Code status: Full code
   Disposition :Transfer to floor